### PR TITLE
[Merged by Bors] - chore: cleanup another `erw` by generalizing `Equiv.range_eq_univ` to EquivLike

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
I think you committed a file with a merge conflict. Otherwise, LGTM. Thanks!
maintainer delegate

File: Mathlib/RingTheory/Adjoin/Basic.lean [hunk 1]
```diff
@@ -543,7 +543,11 @@ theorem Algebra.restrictScalars_adjoin_of_algEquiv
     (Algebra.adjoin L S).restrictScalars F = (Algebra.adjoin L' S).restrictScalars F := by
   apply_fun Subalgebra.toSubsemiring using fun K K' h ↦ by rwa [SetLike.ext'_iff] at h ⊢
   change Subsemiring.closure _ = Subsemiring.closure _
+<<<<<<< Updated upstream
   erw [hi, Set.range_comp, i.toEquiv.range_eq_univ, Set.image_univ]
+=======
+  rw [hi, Set.range_comp, Equiv.range_eq_univ, Set.image_univ]
+>>>>>>> Stashed changes
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Adjoin/Basic.lean:550]: Looks like you got a merge conflict with #21708. How should we resolve the two?

**Review by Vierkantor — APPROVED** [review]
bors merge

**Comment by kim-em** [comment]
bors merge

**Comment by kim-em** [comment]
bors merge
